US07335778B2
In 200 ml of N,N-dimethylformamide was dissolved 100 g of (4R)-4-[(1R)-1-(N-benzylamino)-1-carbamoylmethyl]-3-benzylthiazolidin-2-one, and under nitrogen atmosphere, the solution was stirred at 85° C. for 5 hours. At 90° C. to 95° C., 200 ml of 35% hydrochloric acid was added dropwise to the solution, and the mixture was stirred for 1 hour and 15 minutes. Moreover, 100 ml of 35% hydrochloric acid was added dropwise, and the mixture was stirred for 2 hours. Then, 200 ml of water was added dropwise to the mixture at 85° C. The solution was ice-cooled, and precipitated crystal was collected by filtration, washed with water and then dried at 50° C. for 17 hours to give 93.1 g of (4R,5R)-1,3-dibenzyl-2-oxo-5-(mercaptomethyl)-imidazolidin-4-carboxylic acid as colorless crystal.

reactant | (4R)-4-[(1R)-1-(N-benzylamino)-1-carbamoylmethyl]-3-benzylthiazolidin-2-one | 100 g | C(C1=CC=CC=C1)N[C@@H](C(N)=O)[C@H]1N(C(SC1)=O)CC1=CC=CC=C1 | C19H21N3O2S
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (4R,5R)-1,3-dibenzyl-2-oxo-5-(mercaptomethyl)-imidazolidin-4-carboxylic acid | 93.1 g | C(C1=CC=CC=C1)N1C(N([C@H]([C@@H]1CS)C(=O)O)CC1=CC=CC=C1)=O | C19H20N2O3S
